* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADG5408.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N002 0 8
V2 N003 0 9
V3 N004 0 10
V4 N005 0 11
V5 N007 0 12
V6 N008 0 13
V7 N009 0 14
V8 N010 0 15
V9 N011 0 0
V10 N013 0 5
V11 N014 0 0
V12 N001 0 15
V13 N015 0 -15
V14 N012 0 PULSE(0 5 0 10n 10n 10u 20u)
R1 N006 0 100
C1 N001 0 0.1µ
C2 N015 0 0.1µ
C3 N006 0 35p
X§U1 N001 N011 N013 N014 N012 N015 0 N002 N003 N004 N005 N007 N008 N009 N010 N006 ADG5408
.tran 100u
.lib ADG5408.sub
.backanno
.end
